US08039460B2
Step B: N-[(6S,9R)-6-(2,3-Difluorophenyl)-3-(2,2,2-trifluoroethyl)-6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepin-9-yl]-1,3-dioxo-2,8-diazaspiro[4.5]decane-8-carboxamide
Triethylamine (0.28 mL, 1.97 mmol) was added to a solution of the hydrochloride salt of (6S,9R)-6-(2,3-difluorophenyl)-3-(2,2,2-trifluoroethyl)-6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepin-9-amine (275 mg, 0.66 mmol) and 4-nitrophenyl chloroformate (139 mg, 0.69 mmol) in tetrahydrofuran (2.5 mL) at 0° C. After 15 min, a solution of the acetate salt of 2,8-diazaspiro[4.5]decane-1,3-dione (WO 2004/076455) (180 mg, 0.79 mmol) in dichloromethane (2.5 mL) and triethylamine (0.28 mL, 1.97 mmol) were added and the mixture was allowed to warm to ambient temperature. After 2 h, saturated aqueous sodium carbonate was added and the mixture was extracted with ethyl acetate (3×). The organic layer was washed with saturated aqueous sodium bicarbonate (3×), saturated brine, dried over magnesium sulfate, filtered and concentrated. Purification by silica gel chromatography (100% dichloromethane→90% dichloromethane/methanol) gave the title compound (213 mg). MS 540.2005 (M+1).

reactant | Triethylamine | 1.97 mmol, 0.28 mL | C(C)N(CC)CC | C6H15N
reactant | (6S,9R)-6-(2,3-difluorophenyl)-3-(2,2,2-trifluoroethyl)-6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepin-9-amine | 0.66 mmol, 275 mg | FC1=C(C=CC=C1F)[C@@H]1CC[C@H](C=2N(C1)C(=CN2)CC(F)(F)F)N | C16H16F5N3
reactant | 4-nitrophenyl chloroformate | 0.69 mmol, 139 mg | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | 2,8-diazaspiro[4.5]decane-1,3-dione | 0.79 mmol, 180 mg | C1(NC(CC12CCNCC2)=O)=O | C8H12N2O2
reactant | triethylamine | 1.97 mmol, 0.28 mL | C(C)N(CC)CC | C6H15N
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | tetrahydrofuran | 2.5 mL | O1CCCC1 | C4H8O
solvent | dichloromethane | 2.5 mL | ClCCl | CH2Cl2
product | N-[(6S,9R)-6-(2,3-Difluorophenyl)-3-(2,2,2-trifluoroethyl)-6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepin-9-yl]-1,3-dioxo-2,8-diazaspiro[4.5]decane-8-carboxamide | 213 mg | FC1=C(C=CC=C1F)[C@@H]1CC[C@H](C=2N(C1)C(=CN2)CC(F)(F)F)NC(=O)N2CCC1(CC(NC1=O)=O)CC2 | C25H26F5N5O3
